US08497281B2
4-(cis-2,3,4,4a,9,9a-Hexahydro-indeno[2,1-b]pyridine-1-carbonyl)-benzamide
The title compound is prepared from terephthalamic acid and cis-2,3,4,4a,9,9a-hexahydro-1H-indeno[2,1-b]pyridine following a procedure analogous to that described in Example 1. Yield: 50% of theory; LC (method 1): tR=3.07 min; Mass spectrum (ESI+): m/z=321 [M+H]+.

reactant | terephthalamic acid | C(C1=CC=C(C(=O)N)C=C1)(=O)O | C8H7NO3
reactant | cis-2,3,4,4a,9,9a-hexahydro-1H-indeno[2,1-b]pyridine | N1[C@@H]2[C@H](CCC1)C=1C=CC=CC1C2 | C12H15N
product | 4-(cis-2,3,4,4a,9,9a-Hexahydro-indeno[2,1-b]pyridine-1-carbonyl)-benzamide | Yield: 50% | N1([C@@H]2[C@H](CCC1)C=1C=CC=CC1C2)C(=O)C2=CC=C(C(=O)N)C=C2 | C20H20N2O2
